US05476870
1-(1,1-Dimethylethyl) 14-ethyl 6-[(1,1-dimethylethoxy)carbonyl]-12-oxo-2,6,11-triazatetradecanedioate
After stirring for 0.5 hour, a solution of 1.04 g (3×10-3 mol) of 1,1-dimethylethyl 10-amino-6-[(1,1-dimethylethoxy)carbonyl]-2,6-diazadecanoate in 5 ml of anhydrous chloroform is added dropwise at 0° C. The mixture is stirred for 5 hours at room temperature and 1.06 g (8×10-3 mol) of ethyl malonate and 1.64 g (8×10-3 mol) of 1,3-dicyclohexylcarbodiimide are added. The mixture is stirred for 1 hour and the solvent is evaporated off under reduced pressure. The pasty residue obtained is chromatographed on silica using an ethyl acetate/hexane mixture (1/1 v/v) and then ethyl acetate as the eluent to give 0.95 g (yield: 69%) of the expected product in the form of an oil.

reactant | 1,1-dimethylethyl 10-amino-6-[(1,1-dimethylethoxy)carbonyl]-2,6-diazadecanoate | 3×10-3 mol, 1.04 g | NCCCCN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H35N3O4
reactant | ethyl malonate | 8×10-3 mol, 1.06 g | C(CC(=O)[O-])(=O)OCC
reactant | 1,3-dicyclohexylcarbodiimide | 8×10-3 mol, 1.64 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(1,1-Dimethylethyl) 14-ethyl 6-[(1,1-dimethylethoxy)carbonyl]-12-oxo-2,6,11-triazatetradecanedioate | 0.95 g, yield: 69% | CC(C)(OC(=O)N(CCCNC(=O)OC(C)(C)C)CCCCNC(CC(=O)OCC)=O)C | C22H41N3O7
